* Created by KLayout

* cell tr_1um_example
* pin P13
* pin P4
* pin P7
* pin P6
* pin P8
* pin P2
* pin P10
* pin P11
* pin P12
* pin P14
* pin P16
* pin P5
* pin VDD
* pin P3
* pin P15
* pin VSS
.SUBCKT tr_1um_example P13 P4 P7 P6 P8 P2 P10 P11 P12 P14 P16 P5 VDD P3 P15 VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P4 P7 P6 P8 P2 P10 P11 P12 P14 P16 P5 VDD P3 P15 VSS OSS_FRAME
.ENDS tr_1um_example

* cell OSS_FRAME
* pin P13
* pin P4
* pin P7
* pin P6
* pin P8
* pin P2
* pin P10
* pin P11
* pin P12
* pin P14
* pin P16
* pin P5
* pin VDD
* pin P3
* pin P15
* pin VSS
.SUBCKT OSS_FRAME P13 P4 P7 P6 P8 P2 P10 P11 P12 P14 P16 P5 VDD P3 P15 VSS
* cell instance $1 r180 *1 600,1040
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 m45 *1 -1040,-600
X$2 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 r0 *1 200,-1040
X$3 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 m90 *1 -200,-1040
X$4 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m90 *1 600,-1040
X$5 P8 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 m45 *1 -1040,200
X$6 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $7 m135 *1 1040,-200
X$7 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $8 r90 *1 1040,200
X$8 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $9 m135 *1 1040,600
X$9 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m0 *1 200,1040
X$10 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m0 *1 -600,1040
X$11 P16 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 r0 *1 -600,-1040
X$12 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 r270 *1 -1040,-200
X$14 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r90 *1 1040,-600
X$18 VDD VSS OSS_ESD_5V_VSS
* cell instance $20 r180 *1 -200,1040
X$20 P15 VDD VSS OSS_ESD_5V_ANA
.ENDS OSS_FRAME

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $4 r90 *1 130,0
X$4 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $4 r90 *1 130,0
X$4 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
M$1 VDD VDD PAD VDD PMOS L=2U W=50U AS=698.04P AD=225P PS=126.36U PD=59U
* device instance $2 r0 *1 -54.5,0 PMOS
M$2 PAD VDD VDD VDD PMOS L=2U W=50U AS=225P AD=425P PS=59U PD=67U
* device instance $3 r0 *1 -35.5,0 PMOS
M$3 VDD VDD PAD VDD PMOS L=2U W=50U AS=425P AD=225P PS=67U PD=59U
* device instance $4 r0 *1 -24.5,0 PMOS
M$4 PAD VDD VDD VDD PMOS L=2U W=50U AS=225P AD=425P PS=59U PD=67U
* device instance $5 r0 *1 -5.5,0 PMOS
M$5 VDD VDD PAD VDD PMOS L=2U W=50U AS=425P AD=225P PS=67U PD=59U
* device instance $6 r0 *1 5.5,0 PMOS
M$6 PAD VDD VDD VDD PMOS L=2U W=50U AS=225P AD=425P PS=59U PD=67U
* device instance $7 r0 *1 24.5,0 PMOS
M$7 VDD VDD PAD VDD PMOS L=2U W=50U AS=425P AD=225P PS=67U PD=59U
* device instance $8 r0 *1 35.5,0 PMOS
M$8 PAD VDD VDD VDD PMOS L=2U W=50U AS=225P AD=425P PS=59U PD=67U
* device instance $9 r0 *1 54.5,0 PMOS
M$9 VDD VDD PAD VDD PMOS L=2U W=50U AS=425P AD=225P PS=67U PD=59U
* device instance $10 r0 *1 65.5,0 PMOS
M$10 PAD VDD VDD VDD PMOS L=2U W=50U AS=225P AD=698.04P PS=59U PD=126.36U
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOS
M$1 VSS VSS PAD VSS NMOS L=2U W=50U AS=698.04P AD=225P PS=126.36U PD=59U
* device instance $2 r0 *1 -54.5,0 NMOS
M$2 PAD VSS VSS VSS NMOS L=2U W=50U AS=225P AD=425P PS=59U PD=67U
* device instance $3 r0 *1 -35.5,0 NMOS
M$3 VSS VSS PAD VSS NMOS L=2U W=50U AS=425P AD=225P PS=67U PD=59U
* device instance $4 r0 *1 -24.5,0 NMOS
M$4 PAD VSS VSS VSS NMOS L=2U W=50U AS=225P AD=425P PS=59U PD=67U
* device instance $5 r0 *1 -5.5,0 NMOS
M$5 VSS VSS PAD VSS NMOS L=2U W=50U AS=425P AD=225P PS=67U PD=59U
* device instance $6 r0 *1 5.5,0 NMOS
M$6 PAD VSS VSS VSS NMOS L=2U W=50U AS=225P AD=425P PS=59U PD=67U
* device instance $7 r0 *1 24.5,0 NMOS
M$7 VSS VSS PAD VSS NMOS L=2U W=50U AS=425P AD=225P PS=67U PD=59U
* device instance $8 r0 *1 35.5,0 NMOS
M$8 PAD VSS VSS VSS NMOS L=2U W=50U AS=225P AD=425P PS=59U PD=67U
* device instance $9 r0 *1 54.5,0 NMOS
M$9 VSS VSS PAD VSS NMOS L=2U W=50U AS=425P AD=225P PS=67U PD=59U
* device instance $10 r0 *1 65.5,0 NMOS
M$10 PAD VSS VSS VSS NMOS L=2U W=50U AS=225P AD=698.04P PS=59U PD=126.36U
.ENDS OSS_NCH_ESD
